US06812350B2
Step 3: 3,3,4,4-Tetrafluoro-pyrrolidine Hydrochloride
A solution of 1-benzyl-3,3,4,4-tetrafluoro-pyrrolidine hydrochloride (23.8 grams, 88 mmol) in ethanol (300 mL) containing 10% palladium on carbon was treated with hydrogen in a Parr shaker at 45 psi for 3 hours. The mixture was filtered through Celite®, the filtrate was concentrated to dryness. The residue was triturated with ether and the solid was collected and dried (13.4 grams, 85%, (melting point: 193-196° C.). 1H NMR (400 MHz, D2O) 3.93 (m, 4H), 7.26-7.41 (m, 5H). 19F NMR (376 MHz, D2O) δ−122.25 (m)

reactant | 1-benzyl-3,3,4,4-tetrafluoro-pyrrolidine hydrochloride | 88 mmol, 23.8 grams | Cl.C(C1=CC=CC=C1)N1CC(C(C1)(F)F)(F)F
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 3,3,4,4-Tetrafluoro-pyrrolidine Hydrochloride | Cl.FC1(CNCC1(F)F)F | InChI=1S/C4H5F4N.ClH/c5-3(6)1-9-2-4(3,7)8;/h9H,1-2H2;1H
